US05304565
2-Butyl-6-methoxy-3-[[2'-(N-methoxymethyltetrazol-5-yl)biphenyl-4-yl]methyl]-4(3H)-quinazolinone
To a solution of sodium (28 mg) in methanol (3 ml) was added a solution of 2-butyl-6-hydroxy-3-[[2'-(N-methoxymethyltetrazol-5-yl)biphenyl-4-yl]methyl]-4(3H)-quinazolinone (0.6 g) in methanol (5 ml) and THF (5 ml) at 0° C. The solution was stirred at room temperature for 1 hour and evaporated to dryness. The residue was dissolved in DMF (5 ml) and methyl iodide (0.15 ml) was added to the solution. The mixture was stirred at room temperature for 17 hours, poured into water and extracted with ethyl acetate. The extract was washed with water, dried and evaporated to dryness. The residue was purified by column chromatography on silica gel to give a crystalline product. Recrystallization from ether-hexane gave colorless crystals (0.48 g, 78%).

reactant | sodium | 28 mg | [Na] | Na
reactant | 2-butyl-6-hydroxy-3-[[2'-(N-methoxymethyltetrazol-5-yl)biphenyl-4-yl]methyl]-4(3H)-quinazolinone | 0.6 g | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1COC)=O)O | C28H28N6O3
reactant | methanol | 3 ml | CO | CH4O
reactant | methanol | 5 ml | CO | CH4O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-Butyl-6-methoxy-3-[[2'-(N-methoxymethyltetrazol-5-yl)biphenyl-4-yl]methyl]-4(3H)-quinazolinone | 0.48 g, 78% | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1COC)=O)OC | C29H30N6O3
